US05189054
Scheme I, step f: 3-[(p-fluorophenacyl)methylamino]-2-carbethoxy-4,6-dichloroindole
Dissolve 3-[(p-fluorophenacyl)methylamino]-2-carbethoxy-4,6-dichloro-1-(tert-butyloxycarbonyl)-indole (1.2 g, 2.35 mmol) in methylene chloride. Add trifluoracetic acid and stir for 2 hours. Concentrate the reaction in vacuo and recrystallize the residue from hot ethyl acetate/hexane to yield the title compound (720 mg, 74%).

reactant | 3-[(p-fluorophenacyl)methylamino]-2-carbethoxy-4,6-dichloro-1-(tert-butyloxycarbonyl)-indole | 2.35 mmol, 1.2 g | FC1=CC=C(C(CCNC2=C(N(C3=CC(=CC(=C23)Cl)Cl)C(=O)OC(C)(C)C)C(=O)OCC)=O)C=C1 | C25H25Cl2FN2O5
reactant | trifluoracetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-[(p-fluorophenacyl)methylamino]-2-carbethoxy-4,6-dichloroindole | 720 mg, 74% | FC1=CC=C(C(CCNC2=C(NC3=CC(=CC(=C23)Cl)Cl)C(=O)OCC)=O)C=C1 | C20H17Cl2FN2O3
